US06175007B1
2,4-Dichloro-5-(1,3,4,5,6,7-hexahydro-1,3-dioxo-2H-isoindol-2-yl) benzaldehyde
9 ml of a 37% strength by weight aqueous formaldehyde solution and 9 ml of concentrated hydrochloric acid were added to a solution of 10.6 g (30 mmol) of 2,4-dichloro-5-(1,3,4,5,6,7-hexahydro-1,3-dioxo-2H-isoindol-2-yl)benzaldehyde (O-methyl)oxime in 45 ml of acetic acid. The mixture was subsequently heated for 1 hour at 50-60° C., whereupon the reaction mixture was poured into 300 ml of ice-water. The product was extracted from the resulting mixture using 200 ml of dichloromethane. The extract was dried over magnesium sulfate and then concentrated. The residue was purified by means of silica gel chromatography (eluent: hexane/ethyl acetate=4:1). Yield: 5.2 g; 1H NMR (270 MHz; in CDCl3): δ [ppm]=1.85 (s, 4H), 2.45 (s, 4H), 7.67 (s, 1H), 7.81 (s, 1H), 10.40 (s, 1H).

reactant | formaldehyde | C=O | CH2O
reactant | hydrochloric acid | 9 ml | Cl | ClH
reactant | 2,4-dichloro-5-(1,3,4,5,6,7-hexahydro-1,3-dioxo-2H-isoindol-2-yl)benzaldehyde (O-methyl)oxime | 30 mmol, 10.6 g | CON=CC1=C(C=C(C(=C1)N1C(C=2CCCCC2C1=O)=O)Cl)Cl | C16H14Cl2N2O3
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 2,4-Dichloro-5-(1,3,4,5,6,7-hexahydro-1,3-dioxo-2H-isoindol-2-yl) benzaldehyde | ClC1=C(C=O)C=C(C(=C1)Cl)N1C(C=2CCCCC2C1=O)=O | C15H11Cl2NO3
